US06812227B2
To a solution of tert-butyl 1-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylate (0.34 g, 0.68 mmol) in dicloromethane (2 mL) at 0° C. was added trifluoroacetic acid (1.23 mL). After 2.5 h the reaction mixture was allowed to warm to 25° C. whereupon an additional 1 mL of trifluoroacetic acid was added. After 18 h the reaction mixture was concentrated in vacuo to provide 1-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylic acid as a white powder. Electrospray Mass Spec 443.4 (M+H)+

reactant | tert-butyl 1-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylate | 0.68 mmol, 0.34 g | C(C1=CC=CC=C1)N1CCN(C(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C27H34N2O5S
reactant | trifluoroacetic acid | 1.23 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dicloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylic acid | C(C1=CC=CC=C1)N1CCN(C(CC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C23H26N2O5S
